US09359371B2
(11) Preparation: 9-(6-methoxypyridin-3-yl)-3-methyl-1-(piperidin-4-yl)-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-2(1H)-one hydrochloride salt
In DCM (10 mL) was dissolved tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate (75 mg, 0.149 mmol). The solution was purged with hydrogen chloride gas for 0.5 h and a precipitate was formed. The precipitate was filtrated under reduced pressure, washed sequentially with DCM and diethyl ether and dried to give a solid (50 mg, 76.1% yield).

reactant | tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 0.149 mmol, 75 mg | COC1=CC=C(C=N1)C1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCN(CC3)C(=O)OC(C)(C)C)=O)C | C27H32N6O4
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 9-(6-methoxypyridin-3-yl)-3-methyl-1-(piperidin-4-yl)-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-2(1H)-one hydrochloride salt | 50 mg, 76.1% yield | Cl.COC1=CC=C(C=N1)C1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCNCC3)=O)C | InChI=1S/C22H24N6O2.ClH/c1-27-13-15-12-24-18-5-4-17(14-3-6-19(30-2)25-11-14)26-20(18)21(15)28(22(27)29)16-7-9-23-10-8-16;/h3-6,11-12,16,23H,7-10,13H2,1-2H3;1H
